US04666962
Ethyl-3-[N,N-dibenzylaminoxy]propanoate
The procedure of Example I is repeated using 21.33 g of N,N-dibenzylhydroxylamine, 10.33 g of methyl acrylate and 1.0 g of potassium-tert-butoxide in 100 ml of ethanol, to afford the title compound as a colorless liquid.

reactant | N,N-dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | methyl acrylate | 10.33 g | C(C=C)(=O)OC | C4H6O2
reactant | potassium-tert-butoxide | 1.0 g | CC(C)([O-])C.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl-3-[N,N-dibenzylaminoxy]propanoate | C(C)OC(CCON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C19H23NO3
